US04150025
A mixture consisting of 608 g (4.0 moles) of 2-methyl-4-nitroaniline and 1,216 g of conc. hydrochloric acid was maintained at 90°-95° C., and with good stirring, 488 g (4.8 moles) of 2-pentanon-4-ol was added dropwise over a period of 2 hours. After the addition, the reaction was further carried out for 1 hour. After cooling, a conc. aqueous solution of 528 g of sodium hydroxide was added under ice cooling to render the reaction mixture alkaline. The alkaline reaction mixture was separated into layers, and the oily layer was distilled at 2-5 mmHg to afford 340 g (1.57 moles) of 6-nitro-4,8-dimethylquinaldine.

reactant | 2-methyl-4-nitroaniline | 4.0 moles, 608 g | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
reactant | hydrochloric acid | 1,216 g | Cl | ClH
reactant | sodium hydroxide | 528 g | [OH-].[Na+]
product | 6-nitro-4,8-dimethylquinaldine | 1.57 moles, 340 g | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=C(C1)C)C)C | C12H12N2O2
